Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
amoxicillin / morphine
 
Attending: ___.
 
Chief Complaint:
abdominal ___
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ h/o chronic abdominal ___ attributed to IBS, GERD s/p 
Nissen fundoplication in ___ admitted to ___ surgery 
service with abdominal ___ and now transferred to medicine for 
continued ___ and inability to tolerate PO. Pt is unsure of the 
exact timeline, but in the last 1.5-2 weeks, he has experienced 
both epigastric burning (described as "felt like swallowing 
nails") as well as intermittent, sharp RUQ abdominal ___. He 
has had associated nausea but no emesis, bowel movements are at 
his baseline of daily, brown, somewhat loose stools, no dark or 
bloody stools. Denies trauma. Feels "hot and cold" lately, but 
no measured fevers, nightsweats or LAD. His IBS ___ is 
typically LLQ ___ which is chronic, but from which he suffers 
"attacks" ___ times per month. He has a ___ specialist named 
Dr. ___ in ___ who is working with him and 
considering a spinal stimulator for control of his ___. Pt 
became unable to tolerate PO intake 4 days ago and is concerned 
because he estimates that he has lost 14 lbs in the last week. 
Of note, pt also reports multiple ED visits to ___ 
in the last 2 weeks for above complaints as well as an episode 
of "anaphylactic shock" involving generalized hives and 
difficulty breathing attributed to recent course of amoxicillin 
for sinusitis for which he was reportedly given prednisone and 
epinephrine at ___. His abdominal ___ workup at 
___ included CT abd, HIDA scan and upper endoscopy, 
all of which were reportedly negative.

Currently, pt is not experiencing epigastric burning, but still 
notes intermittent sharp ___ in his RUQ. He denies depressed 
mood and states that "life could not be any better," given his 
satisfaction with his new job as a ___ at a ___ 
___ the past few months as well as his recent move 
to live with his girlfriend and her parents.
 
 
Past Medical History:
Medical History:
-GERD
-IBS c/b chronic LLQ ___ for which he is followed by a ___ 
specialist Dr. ___ in ___

Surgical History: Laparoscopic ___ Fundoplication (___), 
Endoscopic dilation ___.  Lap removal of abdominal 
cyst ___ (___).
 
Social History:
___
Family History:
MGF- stroke, MI unsure of age
Father- HTN, HLD
"everyone has gallbladder problems"
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
T: 94.5 HR: 92 BP: 135/86 RR: 16 Sat 100% RA
Weight: 130.5  Height: 67. BMI: 20.4
GEN: uncomfortable
CV: RRR, mild tachy
Abd: Soft, nondistended. TTP RUQ and epigastrium
Back: +R CVAT
Ext: No c/c/e

DISCHARGE PHYSICAL EXAM:
Afebrile, normotensive, vital signs stable
General: alert, oriented, no acute distress  
HEENT: sclera anicteric, MMM, oropharynx clear  
Lungs: clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, nontender to palpation,non-distended, bowel 
sounds present, no rebound or guarding, no organomegaly  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: motor function grossly normal 

 
Pertinent Results:
LABS:
=========
___ 06:50PM   GLUCOSE-204* UREA N-21* CREAT-0.9 SODIUM-137 
POTASSIUM-4.5 CHLORIDE-97 TOTAL CO2-22 ANION GAP-23*
___ 06:50PM   ALT(SGPT)-17 AST(SGOT)-14 ALK PHOS-53 TOT 
BILI-0.9
___ 06:50PM   ALBUMIN-4.9 CALCIUM-9.4 PHOSPHATE-3.1 
MAGNESIUM-2.2
___ 06:50PM   WBC-6.2 RBC-5.00 HGB-15.3 HCT-45.8 MCV-92 
MCH-30.5 MCHC-33.3 RDW-13.0
___ 06:50PM   NEUTS-70.5* ___ MONOS-5.3 EOS-1.2 
BASOS-0.8
___ 06:50PM   PLT COUNT-174
___ 07:47AM BLOOD WBC-5.1 RBC-4.97 Hgb-15.1 Hct-44.2 MCV-89 
MCH-30.4 MCHC-34.1 RDW-13.3 Plt ___
___ 07:47AM BLOOD Glucose-64* UreaN-9 Creat-1.2 Na-138 
K-4.3 Cl-98 HCO3-27 AnGap-17
___ 07:00AM BLOOD ALT-15 AST-13 AlkPhos-42 TotBili-0.7
___ 07:00AM BLOOD %HbA1c-5.6 eAG-114
___ 08:03AM BLOOD IgA-103
___ 08:03AM BLOOD tTG-IgA-3
___ 06:50PM BLOOD SULFONYLUREAS-PND

___ 18:50
Test                          Result              Reference 
Range/Units
C-PEPTIDE                     4.07  H             0.80-3.10 
ng/mL

___ 18:50
Test                          Result              Reference 
Range/Units
INSULIN                       27.9  H             2.0-19.6 
uIU/mL 

  

___ 18:50
SULFONYLUREAS
 
Test                          Result              Reference 
Range/Units
ACETOHEXAMIDE                 None Detected       mcg/mL
 
Reporting Limit: 0.30 mcg/mL
 
Synonym(s): Dymelor(R)
Analysis by High Performance Liquid 
Chromatography/Tandem Mass Spectrometry (LC-MS/MS)
 
Test                          Result              Reference 
Range/Units
CHLORPROPAMIDE                None Detected       mcg/mL
 
Reporting Limit: 0.30 mcg/mL
 
Synonym(s): Diabinese(R)
Analysis by High Performance Liquid 
Chromatography/Tandem Mass Spectrometry (LC-MS/MS)
 
Test                          Result              Reference 
Range/Units
GLIMEPIRIDE                   None Detected       ng/mL
 
Reporting Limit: 5.0 ng/mL
 
Synonym(s): Amaryl(R)
Analysis by High Performance Liquid 
Chromatography/Tandem Mass Spectrometry (LC-MS/MS)
 
Test                          Result              Reference 
Range/Units
GLIPIZIDE                     None Detected       mcg/mL
 
Reporting Limit: 0.0050 mcg/mL
 
Synonym(s): Glucotrol(R)
Analysis by High Performance Liquid 
Chromatography/Tandem Mass Spectrometry (LC-MS/MS)
 
Test                          Result              Reference 
Range/Units
GLYBURIDE                     None Detected       mcg/mL
 
Reporting Limit: 0.0050 mcg/mL
 
Synonym(s): Micronase(R)
Analysis by High Performance Liquid 
Chromatography/Tandem Mass Spectrometry (LC-MS/MS)
 
Test                          Result              Reference 
Range/Units
NATEGLINIDE                   None Detected       mcg/mL
 
Reporting Limit: 0.050 mcg/mL
 
Synonym(s): Starlix(R)
Analysis by High Performance Liquid 
Chromatography/Tandem Mass Spectrometry (LC-MS/MS)
 
Test                          Result              Reference 
Range/Units
REPAGLINIDE                   None Detected       mcg/mL
 
Reporting Limit: 0.010 mcg/mL
 
Synonym(s): Prandin(R)
Analysis by High Performance Liquid 
Chromatography/Tandem Mass Spectrometry (LC-MS/MS)
 
Test                          Result              Reference 
Range/Units
TOLAZAMIDE                    None Detected       mcg/mL
 
Reporting Limit: 0.30 mcg/mL
 
Synonym(s): Tolinase(R)
Analysis by High Performance Liquid 
Chromatography/Tandem Mass Spectrometry (LC-MS/MS)
 
Test                          Result              Reference 
Range/Units
TOLBUTAMIDE                   None Detected       mcg/mL
 
Reporting Limit: 0.30 mcg/mL
 
Synonym(s): Orinase(R)
Analysis by High Performance Liquid 
Chromatography/Tandem Mass Spectrometry (LC-MS/MS)
 

IMAGING:
========
Portable CXR ___
The lungs are clear without infiltrate. The cardiac and 
mediastinal 
silhouettes are normal. There is minimal right CP angle blunting 
compatible with either a tiny effusion or is small amount of 
pleural thickening the bony thorax appears normal   IMPRESSION:  
Blunting of the right CP angle otherwise normal chest.  

___  Barium Esophagram
The patient is status post ___ fundoplication with surgical 
clips in the left upper abdomen on the initial scout view. The 
distal esophagus is not dilated and appears unremarkable. Barium 
is seen passing freely from the distal esophagus through the 
gastroesophageal junction into the stomach without evidence of 
hold up or leak.
IMPRESSION: Normal appearance of the ___ fundoplication 
without evidence of holdup or leak.

___  LIVER OR GALLBLADDER US
Normal abdominal ultrasound.

___ 08:03AM BLOOD tTG-IgA-___ h/o chronic abdominal ___ attributed to IBS, GERD s/p 
___ fundoplication in ___ admitted to ___ 
service with abdominal ___ and found to have no acute surgical 
issue. He was then transferred to medicine for continued ___ 
and inability to tolerate PO. 

# Acute on chronic abdominal ___: Pt reported intermittent RUQ 
___ distinct from his typical LLQ IBS ___. Unclear etiology, 
but extensive workup at OSH and ___ including LFTs, lipase, 
CBC, TTG IgA, EGD, CT abd, HIDA scan, barium swallow, CXR and 
RUQ u/s negative.   No recent trauma or chest wall tenderness to 
suggest MSK etiology. Symptoms may be due to IBS but given 
inconsistencies in patient's description of symptoms from day to 
day and specific requests for exploratory surgery and narcotic 
___ medications, there is concern for factitious disorder vs 
malingering. Discontinued IV dilaudid that was started on 
admission given lack of clear etiology of ___ beyond known IBS 
and lack of IV med requirement (pt tolerating pills). 
Transitioned to PO tramadol PRN and resumed home ___ regimen 
___. Psychiatry was consulted and felt that patient would 
benefit from longitudinal outpatient therapy. He was observed 
and eventually ___ resolved and he was able to tolerate a 
regular diet. He was discharged with plan for close follow up 
with PCP and his outpatient ___ specialist.

# Epigastric discomfort: Reported intermittent epigastric 
burning. OSH EGD negative, normal post surgical changes s/p 
Nissen on barium swallow. Continued home famotidine and PPI and 
___ resolved. 

# Nausea/Poor PO intake: Questionable h/o 14 lb weight loss in 
week prior to presentation. Pt reported inability to take PO for 
only 4 days, lacked significant systemic symptoms and was well 
appearing on exam. No recent diarrhea or emesis per patient 
report. Patient reported main barrier to PO intake to be 
constant nausea. He was treated symptomatically with ondansetron 
PO. Once he began tolerating PO, he had a very large meal which 
included ___ fries and chocolate cake and reported subsequent 
nausea. He was advised to follow a BRAT diet with small amounts 
of PO intake at a time to avoid exacerbating symptoms.

# Hypoglycemia: Pt reported that he was recently told he is 
diabetic but was not currently taking DM medications per his 
report and A1C this admission was normal. On admission to the 
surgical service, he had symptomatic hypoglycemia to ___ of 
unclear etiology. Fingerstick blood glucose recorded on ___ 
51->142->83. C-peptide and insulin levels were ordered given 
concern for factitious disorder vs malingering, but results were 
non-diagnostic because they were drawn after D50 was 
administered. A sulfonylurea level was added on to his admission 
labs and was negative. Hypoglycemia did not recur.

# H/o anaphylaxis: Pt reported recent episode of hives and 
"throat closing" with amoxicillin. He plans to seek outpatient 
allergy f/u and was recently prescribed an epi pen. 

TRANSITIONAL ISSUES:
======================
# Acute on chronic abdominal ___: Recommend outpatient ___ 
clinic follow up and longitudinal follow up with a mental health 
provider
# Nausea: Discharged on prn ondansetron and mild diet. Recommend 
outpatient GI follow up if persists.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Albuterol Inhaler ___ PUFF IH Q6H:PRN sob 
2. Lorazepam 0.5 mg PO HS:PRN insomnia 
3. Pregabalin 200 mg PO BID 
4. TraMADOL (Ultram) 50-100 mg PO Q6H:PRN ___ 
5. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
6. Docusate Sodium 100 mg PO BID 
7. Famotidine 20 mg PO TID 
8. HYDROmorphone (Dilaudid) 2 mg PO Q6H:PRN severe abdominal 
___ 
9. EpiPen 2-Pak (EPINEPHrine) 0.3 mg/0.3 mL (1:1,000) injection 
ONCE PRN anaphylaxis 

 
Discharge Medications:
1. Docusate Sodium 100 mg PO BID 
2. Famotidine 20 mg PO TID 
3. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
4. Pregabalin 300 mg PO BID 
5. TraMADOL (Ultram) 50-100 mg PO Q6H:PRN ___ 
6. Albuterol Inhaler ___ PUFF IH Q6H:PRN sob 
7. EpiPen 2-Pak (EPINEPHrine) 0.3 mg/0.3 mL (1:1,000) injection 
ONCE PRN anaphylaxis 
8. HYDROmorphone (Dilaudid) 2 mg PO Q6H:PRN severe abdominal 
___ 
9. Lorazepam 0.5 mg PO HS:PRN insomnia 
10. Omeprazole 20 mg PO DAILY 
RX *omeprazole 20 mg 1 capsule(s) by mouth Daily Disp #*30 
Capsule Refills:*0
11. Ondansetron ___ mg PO Q4H:PRN nausea 
RX *ondansetron [Zofran ODT] 4 mg ___ tablet(s) by mouth Every 4 
hours Disp #*60 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Abdominal ___
Nausea
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Mr. ___,

It was a pleasure participating in your care at ___. You were 
admitted to the hospital for abdominal ___ and nausea. You had 
a thorough evaluation which revealed no specific source for your 
___. Your symptoms gradually improved and you were able to eat 
and drink. It is very important that you eat a mild diet, low in 
fat and dairy in small portions for the next week to avoid 
making your symptoms worse. We have prescribed ondansetron 
(Zofran) for nausea and omeprazole for stomach acid for you to 
take until you see your primary care doctor next week. 

Please follow up with your primary care doctor and ___ 
specialist as scheduled. We believe that you would benefit from 
seeing a counselor or therapist regularly to help cope with your 
chronic ___. 
 
Followup Instructions:
___